* D:\GitHub Repositories\GaN-Studies\Protection Circuits\ParasiticProtection.asc
V1 N001 0 270
R1 N005 N004 10
R2 N016 N015 10
L1 N004 N003 2e-9
L2 N015 N014 2e-9
V2 N003 N007 PULSE(6 -3 800e-9 1e-9 1e-9 1200e-9 2000e-9)
V3 N014 Vgnd PULSE(-3 6 1000e-9 1e-9 1e-9 800e-9 2000e-9)
Lparasitic Vcn N019 1.11e-9
R4 N005 N006 2
D1 N006 N004 D
D2 N018 N015 D
R5 N016 N018 2
L4 N001 N002 18e-9
I1 N011 0 20
XU1 N005 N002 N011 N007 GS66508B_L1V2
XU2 N016 N011 Vcn Vgnd GS66508B_L1V2
R8 N019 0 0.243e-3
R9 Vcp 0 880
C3 Vcn Vcp 1e-9
XU3 Vcn N013 Vpos Vneg N017 level.2 Avol=1Meg GBW=3900Meg Slew=950Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 Vcp N008 Vpos Vneg N009 level.2 Avol=1Meg GBW=3900Meg Slew=950Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU5 N012 N010 Vpos Vneg Vamp level.2 Avol=1Meg GBW=3900Meg Slew=950Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V4 Vpos Vgnd 100
V5 Vneg Vgnd -100
R3 N013 N017 1k
R6 N008 N013 2k
R7 N009 N008 1k
R10 N010 N009 1k
R11 N012 N017 1k
R12 Vamp N010 1k
R13 Vgnd N012 1k
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5e-6
.option temp=125
;ac dec 5 1 5000e6
* For 155.5 x 155.5 mil trace (Source Pin Dimension)\n2 oz/ft^2 thickness\n \n25C - 0.243 mohm\n50C - 0.267 mohm\n75C - 0.29 mohm\n100C - 0.314 mohm\n125C - 0.338 mohm\n150C - 0.361 mohm\nL = 1.108404 nH
.lib GaN_LTspice_GS66508B_L1V2.lib
.lib UniversalOpamps2.sub
.backanno
.end
