* D:\GitHub Repositories\GaN-Studies\Protection Circuits\ParasiticProtection.asc
V1 N001 0 270
R1 N005 N004 10
R2 N016 N015 10
L1 N004 N003 2e-9
L2 N015 N014 2e-9
V2 N003 N007 PULSE(6 -3 10000e-9 1e-9 1e-9 9900e-9 20000e-9)
V3 N014 Vgnd PULSE(-3 6 10000e-9 1e-9 1e-9 9900e-9 20000e-9)
Lparasitic Vcn N019 1.11e-9
R4 N005 N006 2
D1 N006 N004 D
D2 N018 N015 D
R5 N016 N018 2
L4 N001 N002 18e-9
I1 N011 0 20
XU1 N005 N002 N011 N007 GS66508B_L1V2
XU2 N016 N011 Vcn Vgnd GS66508B_L1V2
R8 N019 0 0.243e-3
R9 Vcp 0 880
C3 Vcn Vcp 1e-9
V4 Vpos Vgnd 6
V5 Vneg Vgnd -3
R3 N013 N017 1k
R6 N008 N013 100
R7 N009 N008 1k
R10 N010 N009 1k
R11 N012 N017 1k
R12 Vamp N010 1k
R13 Vgnd N012 1k
XU3 Vcn N008 Vpos Vneg N009 level.2 Avol=31.6228k GBW=3900Meg Slew=950Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 Vcp N013 Vpos Vneg N017 level.2 Avol=31.6228k GBW=3900Meg Slew=950Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU5 N012 N010 Vpos Vneg Vamp level.2 Avol=31.6228k GBW=3900Meg Slew=950Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100e-6
.option temp=25
;ac dec 5 1 5000e6
* For 155.5 x 155.5 mil trace (Source Pin Dimension)\n2 oz/ft^2 thickness\n \n25C - 0.243 mohm\n50C - 0.267 mohm\n75C - 0.29 mohm\n100C - 0.314 mohm\n125C - 0.338 mohm\n150C - 0.361 mohm\nL = 1.108404 nH
.lib GaN_LTspice_GS66508B_L1V2.lib
.lib UniversalOpamps2.sub
.backanno
.end
